US09062060B2
5,6-Dihydro-imidazo[2,1-a]isoquinoline-2-carbaldehyde
To a solution of (5,6-dihydroimidazo[2,1-a]isoquinolin-2-yl)-methanol (177 mg, 0.88 mmol) in DCM (10 mL) under an atmosphere of argon was added Dess-Martin periodinane (41 mg, 0.97 mmol) and the solution stirred at room temperature for 2 h.

reactant | (5,6-dihydroimidazo[2,1-a]isoquinolin-2-yl)-methanol | 0.88 mmol, 177 mg | N=1C(=CN2C1C1=CC=CC=C1CC2)CO | C12H12N2O
reactant | Dess-Martin periodinane | 0.97 mmol, 41 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5,6-Dihydro-imidazo[2,1-a]isoquinoline-2-carbaldehyde | N=1C(=CN2C1C1=CC=CC=C1CC2)C=O | C12H10N2O
